US05145871
EXPERIMENTAL MODEL OF CORTISONE-INDUCED GLAUCOMA
Eight rabbits of the New Zealand breed were used, weighing approximately 2 kg. In the right eye of each animal, 0.8 ml/week of Bentelan Depot (equivalent to 4 mg betametasone) were instilled for 4 weeks. The left eye was kept as control. The medicament, administered subconjunctivally, brought about an increase of the intraocular tension in the first week, reached its peak in the second week and then remained constant until the fifth week.

reactant | Bentelan | C[C@H]1C[C@H]2[C@@H]3CCC4=CC(=O)C=C[C@@]4([C@]3([C@H](C[C@@]2([C@]1(C(=O)COP(=O)([O-])[O-])O)C)O)F)C.[Na+].[Na+]
reactant | betametasone | 4 mg | C[C@H]1C[C@H]2[C@@H]3CCC4=CC(=O)C=C[C@@]4([C@]3([C@H](C[C@@]2([C@]1(C(=O)CO)O)C)O)F)C | C22H29FO5
product | CORTISONE | C[C@]12CCC(=O)C=C1CC[C@@H]3[C@@H]2C(=O)C[C@]4([C@H]3CC[C@@]4(C(=O)CO)O)C | C21H28O5
